US07612211B2
C. 2′-trifluoromethanesulfonyl-biphenyl-3,4-diamine
A solution of (4-tert-butoxycarbonylamino-2′-trifluoromethanesulfonyl-biphenyl-3-yl)-carbamic acid tert-butyl ester (0.072 g, 0.228 mmol) in 4M HCl in dioxane (3 mL) was stirred at room temperature for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was dissolved in EtOAc, and the solution was washed with saturated sodium bicarbonate and water (pH=7). The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo to provide the title compound as a yellow oil (0.043 g, 98%).

reactant | (4-tert-butoxycarbonylamino-2′-trifluoromethanesulfonyl-biphenyl-3-yl)-carbamic acid tert-butyl ester | 0.228 mmol, 0.072 g | C(C)(C)(C)OC(NC=1C=C(C=CC1NC(=O)OC(C)(C)C)C1=C(C=CC=C1)S(=O)(=O)C(F)(F)F)=O | C23H27F3N2O6S
solvent | HCl | 4M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2′-trifluoromethanesulfonyl-biphenyl-3,4-diamine | 0.043 g, 98% | FC(S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)N)N)(F)F | C13H11F3N2O2S
